US08981085B2
Tin chloride (674 mg, 3.55 mmol) was added to 5-ethoxy-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine (160 mg, 0.711 mmol) in 6N HCl (5 mL) at about 0 to about 5° C., and then the reaction was stirred at 0 to about 5° C. for 2 hours. The solution was neutralized by addition of 6N NaOH and then extracted with CHCl3/IPA (3:1). The combined organic phases were dried over MgSO4 and concentrated to leave 5-ethoxy-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (120 mg, 86% yield) as a solid.

reactant | Tin chloride | 3.55 mmol, 674 mg | [Sn](Cl)(Cl)(Cl)Cl
reactant | 5-ethoxy-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine | 0.711 mmol, 160 mg | C(C)OC=1C(=C2C(=NC1)NC=C2[N+](=O)[O-])F | C9H8FN3O3
reactant | NaOH | 6N | [OH-].[Na+]
solvent | HCl | 6N, 5 mL | Cl | ClH
product | 5-ethoxy-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 120 mg, 86% yield | C(C)OC=1C(=C2C(=NC1)NC=C2N)F | C9H10FN3O
